Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ male with history of depression,
otherwise no significant past medical history, initially
presenting to ___ with several day history of worsening
shortness of breath, found to have submassive extensive 
bilateral
pulmonary emboli with evidence of right heart strain and
infarction, transferred for MASCOT evaluation.

Patient states he was in his usual state of health until
approximately 5 days ago. He is an avid biker, normally able to
bike >20 miles without difficulty. 5 days ago noted he had
worsening shortness of breath on his bike ride. One day prior to
presenting to ___ he became very acutely short of breath
when walking approximately 3 blocks. Denied any chest pain. Did
not notice any lower extremity swelling, no prior history or
family history of DVT/PE. Of note, he recently had a long car
ride to ___ on ___. 

Subsequently presented to ___, initial VS Temp: 98.7 HR:
72 BP: 140/91 Resp: 18 O(2)Sat: 90 Normal. Given high suspicion
for PE, underwent CTA showing extensive PE in the right main
pulmonary artery extending to all lobes as well as within lobar
pulmonary arteries of the left upper and lower lobes. With
evidence of flattening of intraventricular something suggesting
right heart strain, also with evidence of wedge-shaped 
infarction
in right upper lobe and left lower lobe. No evidence of ischemia
on EKG prior to transfer per discharge summary. Was started on 
IV
heparin and transferred for MASCOT evaluation. 

 
Past Medical History:
- Depression
- Familial Mediterranean fever

 
Social History:
___
Family History:
No family history of PE or DVT.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VS: ___ 2208 Temp: 98.4 PO BP: 130/82 R Lying HR: 65 RR: 18
O2 sat: 90% O2 delivery: Ra 
GENERAL: Comfortable, NAD, beginning in full sentences
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, no elevated JVD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

DISCHARGE PHYSICAL EXAM:
========================
VS: ___ 1123 Temp: 98.0 PO BP: 113/77 R Lying HR: 72 RR: 16
O2 sat: 95% O2 delivery: Ra 
GENERAL: Comfortable, NAD, beginning in full sentences
HEENT: AT/NC, anicteric sclera, MMM
NECK: supple, no LAD, no elevated JVD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB, no wheezes, rales, rhonchi, breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly
EXTREMITIES: no cyanosis, clubbing, or edema
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric
DERM: warm and well perfused, no excoriations or lesions, no
rashes

 
Pertinent Results:
ADMISSION LABS:
===============
___ 06:42PM BLOOD WBC-8.4 RBC-4.68 Hgb-14.7 Hct-43.5 MCV-93 
MCH-31.4 MCHC-33.8 RDW-12.2 RDWSD-41.3 Plt ___
___ 06:42PM BLOOD Neuts-51.4 ___ Monos-7.6 Eos-3.6 
Baso-0.5 Im ___ AbsNeut-4.32 AbsLymp-3.05 AbsMono-0.64 
AbsEos-0.30 AbsBaso-0.04
___ 06:42PM BLOOD ___ PTT-150* ___
___ 06:42PM BLOOD Glucose-97 UreaN-15 Creat-0.9 Na-142 
K-4.1 Cl-102 HCO3-26 AnGap-14
___ 06:42PM BLOOD proBNP-35
___ 06:42PM BLOOD cTropnT-<0.01
___ 05:30AM BLOOD Calcium-9.2 Phos-4.0 Mg-1.9 Cholest-198
___ 05:30AM BLOOD Triglyc-103 HDL-55 CHOL/HD-3.6 
LDLcalc-122

DISCHARGE LABS:
===============
___ 07:23AM BLOOD WBC-7.1 RBC-5.09 Hgb-16.0 Hct-47.1 MCV-93 
MCH-31.4 MCHC-34.0 RDW-12.1 RDWSD-41.1 Plt ___
___ 07:23AM BLOOD Glucose-98 UreaN-14 Creat-0.8 Na-144 
K-4.6 Cl-102 HCO3-24 AnGap-18
___ 07:23AM BLOOD Calcium-9.3 Phos-3.9 Mg-2.0

IMAGING STUDIES:
================

CXR ___ (@ OSH): IMPRESSION:  No acute cardiopulmonary 
abnormality.

CTA Chest ___ (@OSH):
IMPRESSION:  Extensive pulmonary emboli bilaterally with 
evidence
of right heart strain and infarction. Presumably the lung
findings aresecondary to infarction but follow-up chest CT in 3
months is recommended. 

LOWER EXTREMITY U/S (___):
Deep venous thrombosis in the two left gastrocnemius veins.  No 
evidence of
deep venous thrombosis in the rightlower extremity veins.

TTE (___):
The left atrial volume index is normal. The right atrium is 
mildly enlarged. There is mild symmetric left ventricular 
hypertrophy with a normal cavity size. There is normal regional 
and global left ventricular systolic function. The visually 
estimated left ventricular ejection fraction is 55-60%. There is 
no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Tissue Doppler suggests a 
normal left ventricular filling pressure (PCWP less than 
12mmHg). Normal right ventricular cavity size with normal free 
wall motion. The aortic sinus is moderately dilated with mildly 
dilated ascending aorta. The aortic arch diameter is normal. 
There is no evidence for an aortic arch coarctation. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. There is no aortic regurgitation. The mitral 
valve leaflets are mildly thickened with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is physiologic 
tricuspid regurgitation. The pulmonary artery systolic pressure 
could not be estimated. There is no pericardial effusion. 

IMPRESSION: Mild symmetric left ventricular hypertrophy with 
preserved biventricular systolic function. Moderately dilated 
aortic root with mildly dilated aortic sinus. Indeterminate 
pulmonary pressure. 

CLINICAL IMPLICATIONS: The patient has a moderately dilated 
aortic root. Based on ___ ACCF/AHA Thoracic Aortic Guidelines, 
if not previously known or a change, a follow-up echocardiogram 
is suggested in 6 months; if previously known and stable, a 
follow-up echocardiogram is suggested in ___ year.

PENDING LABS AT DISCHARGE:
==========================
___ 04:57PM BLOOD BETA-2-GLYCOPROTEIN 1 ANTIBODIES (IGA, 
IGM, IGG)-PND
___ 04:57PM BLOOD CARDIOLIPIN ANTIBODIES (IGG, IGM)-PND
 
Brief Hospital Course:
Mr. ___ is a ___ male with history of depression, 
otherwise no significant past medical history, initially 
presenting to ___ with several day history of worsening
shortness of breath, found to have submassive extensive 
bilateral pulmonary emboli with evidence of right heart strain 
on CT, transferred for ___ evaluation.

ACUTE ISSUES:
=============
# Unprovoked Submassive PE
Initially presented with several day history of worsening 
shortness of breath to ___, ___ showing extensive PE in 
the right main pulmonary artery extending to all lobes as well 
as within lobar pulmonary arteries of the left upper and lower 
lobes. Evidence of flattening of IV septum suggesting right 
heart strain, also with wedge-shaped infarction in right upper 
lobe and left lower lobe. TTE and EKG here, however without 
right heart strain. Trops negative, proBNP 35. Lower extremity 
U/S with evidence of L gastrocnemius DVT. Vascular medicine 
consulted, recommending medical management. Has otherwise 
remained hemodynamically stable during hospital course. 
Initially hypoxemic on admission, requiring 2L O2, now weaned to 
RA, with ambulatory O2 sats >92%. Treated with heparin gtt, then 
transitioned to PO Apixaban on ___. Will take 10mg twice daily 
for 7 days (___), followed by 5mg twice daily (starting 
___. Would also recommend follow up with vascular medicine 
(Dr. ___ as well as hematology as an outpatient. 
Screening tests for APLS pending at discharge. 

#Hypoxemic respiratory failure - Resolved
Hypoxemic on admission, requiring 2L O2, now weaned to RA. 
Ambulatory O2 sats 92-95% RA. Likely ___ PE. CXR otherwise 
negative. 

#Moderately dilated aortic root
Found incidentally to have mildly dilated aortic root on TTE. 
Based on ___ ACCF/AHA Thoracic Aortic Guidelines, a follow-up 
echocardiogram is suggested in 6 months.

#Hx of fever of unknown origin
Patient expresses history of intermittent fevers in ___. Was 
seen by rheumatology and ID with extensive workup, ultimately 
treated with steroids. Believed to be attributed to Familial 
Mediterranean fever. No fevers recently, but given new diagnosis 
of unprovoked pulmonary embolism, could re-consider chronic 
inflammatory process. Will have patient follow up with his PCP 
as an outpatient for further workup. 

CHRONIC ISSUES:
===============
#Depression - Continue home Citalopram 20 mg PO/NG daily

TRANSITIONAL ISSUES:
====================
[] Started on PO Apixaban on ___. Will take 10mg twice daily for 
7 days (___), followed by 5mg twice daily (starting ___.
[] Incidentally noted to have mildly dilated aortic root on TTE. 
Based on ___ ACCF/AHA Thoracic Aortic Guidelines, a follow-up 
echocardiogram is suggested in 6 months.
[] Please follow up screening tests for APLS (beta 2 
glycoprotein, cardiolipin ABs) as results are pending at 
discharge
[] Please ensure follow up with hematology as an outpatient for 
further hypercoagulability workup. Patient will call to make 
appointment.
[] Follow-up should also be arranged with Dr. ___ in 
___ system for vascular medicine in 1 month from discharge 
[] Please also follow up with PCP to ensure patient is up to 
date on age-appropriate cancer screenings

#CODE: Full Code
#CONTACT:
Name of health care proxy: ___ 
___: wife 
Cell phone: ___ 
 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Citalopram 20 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*90 Tablet Refills:*0 
2.  Citalopram 20 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
#Submassive pulmonary embolism
#Depression

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___!  

Why was I admitted to the hospital?  
- You were admitted because you had shortness of breath, and 
were found to have a pulmonary embolism (i.e. blood clot in your 
lungs). The clot was relatively extensive on your CT scan, 
involving your right lung, so you were transferred to ___ for 
further management.

What happened while I was in the hospital?  
- When you were admitted we did blood tests to identify any 
strain on your heart. These blood tests were negative. We also 
did an echocardiogram which also was negative for heart strain. 
- Given your clinical improvement and negative testing, our 
interventionalist team decided to manage your blood clot 
medically, rather than do a procedure.
- You were initially treated with IV heparin, then transitioned 
to Apixaban. You will need to take 10mg twice daily for 5 days 
(___), followed by 5mg twice daily (starting ___. Your 
follow up appointments with hematology and vascular medicine 
will determine how long you will need the blood thinner.

What should I do after leaving the hospital?  
-  Please take your medications as listed in discharge summary 
and follow up at the listed appointments. 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Sincerely,

Your ___ Healthcare Team  
 
Followup Instructions:
___